US04843172
A 300-ml autoclave made of Hastelloy C was charged with 1.5 g (3.10 mmol) of rhodium iodide and 100 ml of dioxane, as a solvent, to cause a reaction to occur therein under a hydrogen pressure of 10 kg/cm2 and a carbon monoxide pressure of 30 kg/cm2 at 150° C. with stirring. After cooling the reaction mixture and relieving the pressure, 8.9 g (50.0 mmol) of α-(4-isobutylphenyl)ethyl alcohol and 0.40 g (3.15 mmol) of iodine were further added thereto and then the procedure of Example 1 was repeated. Thus 4.5 g of α-(4-isobutylphenyl)propionic acid was obtained.

reactant | carbon monoxide | [C]=O | CO
reactant | α-(4-isobutylphenyl)ethyl alcohol | 50.0 mmol, 8.9 g | C(C(C)C)C1=CC=C(C=C1)C(C)O | C12H18O
reactant | iodine | 3.15 mmol, 0.40 g | II | I2
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | Hastelloy C | [Cr].[Co]
catalyst | rhodium iodide | 3.10 mmol, 1.5 g | [Rh](I)(I)I
product | α-(4-isobutylphenyl)propionic acid | 4.5 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C13H18O2
